US07625909B2
Step 2. Synthesis of 1,1-Dimethylethyl 3-azetidinylcarbamate
A solution of 1,1-dimethylethyl [1-(diphenylmethyl)-3-azetidinyl]carbamate in MeOH (10 mL) was treated with of 4.0 N HCl/dioxane (1 mL) and then reacted overnight with hydrogen gas at 50 psi. The reaction mixture was then filtered through a pad of Celite, concentrated and the crude residue was used without further purification.

reactant | 1,1-dimethylethyl [1-(diphenylmethyl)-3-azetidinyl]carbamate | C1(=CC=CC=C1)C(N1CC(C1)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C21H26N2O2
reactant | HCl dioxane | 4.0 N, 1 mL | Cl.O1CCOCC1
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
product | 1,1-Dimethylethyl 3-azetidinylcarbamate | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
